US07691850B2
(e) (±)-6-({[(1-{2-[3-Fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-methyl-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a solution of the HCl salt of (±)-[(1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-methyl-3-pyrrolidinyl)methyl]amine (100 mg, 0.257 mmol) in MeOH (3 mL) were added NaHCO (215 mg, 2.57 mmol) followed by 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde (51 mg, 0.317 mmol). After 24 h at 25° C., NaBH (15 mg, 0.398 mmol) was added. After 1 h, the reaction was concentrated and the residue was partitioned between DCM-H O. The aqueous phase was extracted several times with DCM and the combined organic fractions were dried over MgSO, concentrated and purified via column chromatography (silica, 4% MeOH in DCM (1% NH OH)) yielding the title compound (30 mg, 24%) as a brown oil: LC/MS (ES) m/e 497 (M+H)+; 1H NMR (CDCl3, 400 MHz) δ 8.8 (bs, 1H), 8.65 (s, 1H), 8.22 (d, J=9.0 Hz, 1H), 7.58 (d, J=7.8 Hz, 1H), 7.19 (d, J=9.0 Hz, 1H), 6.95 (d, J=7.8 Hz, 1H), 4.12 (s, 3H), 3.83 (s, 2H), 3.51 (s, 2H), 3.46-3.50 (m, 2H), 2.9 (m, 4H), 2.5 (m, 3H), 2.3 (m, 1H), 1.85 (m, 1H), 1.55 (m, 1H), 1.1 (s, 3H).

reactant | HCl | Cl | ClH
reactant | (±)-[(1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-methyl-3-pyrrolidinyl)methyl]amine | 0.257 mmol, 100 mg | FC=1C=NC2=CC=C(N=C2C1CCN1CC(CC1)(C)CN)OC | C17H23FN4O
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | 0.317 mmol, 51 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
solvent | MeOH | 3 mL | CO | CH4O
product | (±)-6-({[(1-{2-[3-Fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-methyl-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 30 mg, 24% | FC=1C=NC2=CC=C(N=C2C1CCN1CC(CC1)(C)CNCC=1C=CC=2SCC(NC2N1)=O)OC | C25H29FN6O2S
